* Z:\home\vero\Documentos\ADC\tp\CIRCUITO_TP2.asc
C1 N002 N001 10n
C2 N004 N002 10n
R1 N003 N002 37k4
R2 0 N004 75k
XU1 N004 N003 VCC VEE N003 TL081
V2 VCC 0 10
V3 0 VEE 10
V N001 0 PULSE(0 1 1 1u 1u 1 2 1000)
.backanno
.end
